US05401500
ethyl vanillin.
The foregoing formula may require a solubilizing agent, e.g., the methyl ester of dihydroabietic acid (commerical name: HERCOLYN D®), benzyl benzoate, isopropyl myristate and/or C12 -C14 isoparaffin hydrocarbons.

reactant | dihydroabietic acid | CC(C)C1CCC2C(=C1)CCC3C2(CCCC3(C)C(=O)O)C | C20H32O2
reactant | benzyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C14H12O2
reactant | isopropyl myristate | C(CCCCCCCCCCCCC)(=O)OC(C)C | C17H34O2
product | ethyl vanillin | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
